US05538987
Methyl 3-(4-methylphenyl)furan-2-carboxylate
A solution of 10.8 g of methyl 2,3-epoxy-3-(4-methylphenyl)-5,5-dimethoxypentanoate and 1.1 g of p-toluenesulfonic acid in 60 ml of anhydrous benzene is refluxed over molecular sieves for 3 h. 60 ml of ethyl acetate are added, the mixture is washed 2 times with 50 ml of a NaHCO3 saturated aqueous solution, dried over Na2SO4 and the solvent is evaporated under reduced pressure. The residue is purified by F.C. to obtain 4.2 g of a yellow oil (50% yield). 1H NMR (CDCl3), δ: 2.39 (s, 3 H), 3.85 (s, 3 H), 6.62 (d, 1 H), 7.24 (d, 2 H), 7.48 (d, 2 H), 7.56 (d, 1 H).

reactant | methyl 2,3-epoxy-3-(4-methylphenyl)-5,5-dimethoxypentanoate | 10.8 g | O1C(C(=O)OC)C1(CC(OC)OC)C1=CC=C(C=C1)C | C15H20O5
reactant | p-toluenesulfonic acid | 1.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | Methyl 3-(4-methylphenyl)furan-2-carboxylate | 4.2 g, 50% yield | CC1=CC=C(C=C1)C1=C(OC=C1)C(=O)OC | C13H12O3
